US07652143B2
t-Butyl 2-(2-hydroxy-1-(4-methoxyphenyl)ethylamino)-3-methylbutyrate (2.5 g; 7.73 mmol) was introduced into CH2Cl2 (200 ml), and the solution was cooled to −78° C. Addition of pyridine (3.12 ml; 38.65 mmol) was followed by slow dropwise addition of thionyl chloride (0.67 ml; 9.27 mmol). The reaction mixture was stirred for 1 h, during which the temperature was allowed to rise to 0° C. The reaction mixture was partitioned between aqueous 1% strength HCl/CH2Cl2 and extracted with CH2Cl2 (2×). The combined organic phases were washed with saturated NaHCO3 solution and dried over MgSO4, and the solvent was removed in a rotary evaporator. The residue was taken up in acetonitrile (20 ml) and cooled to 0° C. Then NaIO4 (1.82 g; 8.5 mmol), RuCl3.H2O (14.43 mg; 0.077 mmol) and water (20 ml) were added. The reaction mixture was stirred at 0° C. for 5 minutes and then at RT for a further 20 minutes. It was then partitioned between saturated NaHCO3 solution/CH2Cl2 and extracted with CH2Cl2 (2×). The combined organic phases were washed with saturated NaHCO3 and dried over MgSO4, and the solvent was removed in a rotary evaporator. Purification by chromatography resulted in t-butyl 2-(4-(4-methoxyphenyl)-2,2-dioxo-(1,2,3)oxathiazolidin-3-yl)-3-methylbutyrate (2.5 g; 6.48 mmol). MS: 403.15 (M+NH4+); Rt: 1.82 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.).

reactant | t-Butyl 2-(2-hydroxy-1-(4-methoxyphenyl)ethylamino)-3-methylbutyrate | 7.73 mmol, 2.5 g | OCC(C1=CC=C(C=C1)OC)NC(C(=O)OC(C)(C)C)C(C)C | C18H29NO4
reactant | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
reactant | pyridine | 38.65 mmol, 3.12 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 9.27 mmol, 0.67 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 20 ml | O | H2O
product | t-butyl 2-(4-(4-methoxyphenyl)-2,2-dioxo-(1,2,3)oxathiazolidin-3-yl)-3-methylbutyrate | 6.48 mmol, 2.5 g | COC1=CC=C(C=C1)C1N(S(OC1)(=O)=O)C(C(=O)OC(C)(C)C)C(C)C | C18H27NO6S
